US07622583B2
4-Chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
A mixture 4-chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (580 g, 1.02 mmol) in 4 M HCl in dioxane (15 mL), and water (5 mL) was heated at 100° C. for 8 h and then at room temperature for 10 h. The reaction mixture was concentrated to dryness under reduced pressure and it was treated with aqueous NaHCO3 to adjust pH to 5-6 and extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide the desired product 4-Chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide.

reactant | 4-chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.02 mmol, 580 g | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C(F)(F)F | C21H14Cl2F3N3O6S
reactant | water | 5 mL | O | H2O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-Chloro-N-[5-chloro-2-(2-nitro-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C(F)(F)F | C19H10Cl2F3N3O5S
